US07951824B2
Step 2: 6′-Methyl-5-trifluoromethyl-[3,4′]bipyridinyl-2′-carboxylic acid (4-methyl-thiazol-2-yl)-amide
The title compound, was prepared from 3-Trifluoromethyl-5-bromopyridine and 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxa-borolan-2-yl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide in accordance with the general method of example 1, step 6 to yield the final compound as a white solid, MS (ISP): m/e=379.2 (M+H)+.

reactant | 3-Trifluoromethyl-5-bromopyridine | FC(C=1C=NC=C(C1)Br)(F)F | C6H3BrF3N
reactant | 6-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxa-borolan-2-yl)-pyridine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C17H22BN3O3S
product | 6′-Methyl-5-trifluoromethyl-[3,4′]bipyridinyl-2′-carboxylic acid (4-methyl-thiazol-2-yl)-amide | CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)C(F)(F)F)C | C17H13F3N4OS
